### PR TITLE
Syncing Proof Reconstruction

### PR DESCRIPTION
**Pull request by tomaz1502**
Adding latest changes, including some tactics for non-linear arithmetic

### CODE REVIEW

File: Smt/Reconstruction/Certifying/Arith/SumBounds/Lemmas.lean [hunk 1]
```diff
@@ -72,4 +72,5 @@ theorem sumBounds₉ : a = b → c = d → a + c ≤ b + d := by
   rewrite [h₁, h₂]
   exact le_refl (b + d)
 
+
```
Comment (abdoo8080) [inline Smt/Reconstruction/Certifying/Arith/SumBounds/Lemmas.lean:75]:
```suggestion
```

File: lean-toolchain [hunk 2]
```diff
@@ -1 +1 @@
-leanprover/lean4:nightly-2023-04-20
+leanprover/lean4:nightly-2023-06-20
```
Comment (abdoo8080) [inline lean-toolchain:1]: This is out-of-date now!

**Review by abdoo8080 — CHANGES_REQUESTED** [review]
